2115-05-18 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Pt feeling much improved, denies sob/cp.
   - Got Lasix 80mg IV X 3 and UOP increased
   - Stopped ABx
   - CXR showed worsened pulmonary edema and possible opacities but
   suggest repeat CXR after diuresis to ascertain whether opacity or not
   - Renal U/S showed no acute pathology but dopplers were difficult to
   assess because of respiratory movement.
   - Inc BP in am (180s) so gave labetolol early
   Allergies:
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-5-17**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2115-5-17**] 05:10 PM
   Furosemide (Lasix) - [**2115-5-17**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-18**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 78 (76 - 94) bpm
   BP: 189/62(91) {107/46(63) - 191/106(116)} mmHg
   RR: 23 (21 - 42) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                    655 mL
   Urine:
                                                                  2,475 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,475 mL
                                                                   -655 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   GENERAL: NAD, able to carry on conversation w/o sob
   HEENT: EOMI, PERRLA, MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly, JVP 8-10cm
   CARDIAC: +S1/S2. RRR. 2/6 SEM at LUSB, no rubs or [**Last Name (un) 1792**].
   LUNGS: +crackles in bilateral bases, decreased breath sounds at
   bilateral bases, Clear in upper [**3-5**] (improved from previous)
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: NO edema, well perfused and warm
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   269 K/uL
   9.3 g/dL
   112 mg/dL
   2.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   67 mg/dL
   104 mEq/L
   142 mEq/L
   28.1 %
   12.3 K/uL
        [image002.jpg]
                             [**2115-5-17**]  05:13 PM
                             [**2115-5-18**]  04:46 AM
   WBC
   12.3
   Hct
   28.1
   Plt
   269
   Cr
   2.4
   2.1
   Glucose
   208
   112
   Other labs: Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   75 yo female admitted with SOB, URI symptoms and dietary indiscretion
   over the [**Holiday **] holiday now with acute worsening of hypoxia [**3-4**] acute
   CHF.
   # Acute on Chronic CHF: Ms. [**Name13 (STitle) 8727**] has had worsening SOB, DOE and
   orthopnea over the past 5 days and was found to be acutely hypoxic
   yesterday morning likely [**3-4**] to acute CHF exacerbation.  She was given
   Lasix IV multiple times over the course of yesterday and diuresed
   approximately 3L. Her exam is much improved as is her breathing
   suggesting a relatively euvolemic state. She is currently on a NP O2
   with good oxygen saturation.
   -- Restart home lasix PO (120 QAM, 120 at noon, 40 QHS)
   -- goal
   -- [**Hospital1 **] Lytes
   -- cont home ASA, Labetalol, Clonidine, Nifedipine
   -- Goal SBP 140s
   -- wean O2 as tolerated
   # URI: Ms. [**Known lastname 8728**] describes mild cough with clear productive sputum
   along with some chills.  She had a ?Retrocardiac opacity on admission
   and was started on Ceftriaxone/Azithromycin.  She remained afebrile
   here. CXR less likely to represent pneumonia.
   -- Will hold abx and monitor
   -- f/u blood cultures
   -- monitor fever curve
   # Hypertension: episode of bp in the 160s overrnight. Likely [**3-4**]  not
   taking home meds.  restarted home niofedipine, titrate if needed this
   PM
   # Renal artery stenosis status post stenting x2: cont asa and plavix.
   Creatinine improving. RA US equivocal, no need to further investigate
   if BP is controlled and UOP is maintained. Will monitor.
   # Diabetes: diabetic diet and home insulin regimen
   # CKD: stable, renally dose meds, avoid nephrotoxins
     FEN: replete lytes prn
   PPX: Sc heparin, bowel regimen prn
   ACCESS: PIV's .
   CODE STATUS: Full Code   .
   DISPOSITION: pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-17**] 08:51 AM
   20 Gauge - [**2115-5-17**] 12:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-19 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   stable sat at low 90s on 6 lt
   transitioned to po lasix
   dr [**Last Name (STitle) **] rec transfer to floor
   bp <160 all day
   Allergies:
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-5-18**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2115-5-18**] 04:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-19**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.3
   HR: 83 (74 - 103) bpm
   BP: 157/52(78) {128/41(66) - 192/68(94)} mmHg
   RR: 26 (20 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                    900 mL
                  PO:
                                                                    900 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,395 mL
                                                                  1,350 mL
   Urine:
                                                                  2,395 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                 -1,350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GENERAL: Mild distress, tachypneic, able to speak in short sentences
   HEENT: EOMI, PERRLA, MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly, JVP 12cm
   CARDIAC: +S1/S2. RRR. 2/6 SEM at LUSB, no rubs or [**Last Name (un) 1792**].
   LUNGS: +crackles in bilateral lung fields [**3-5**] of the way up, decreased
   breath sounds at bilateral bases
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: 1+ edema in b/l LE to the calves,well perfused and warm
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   306 K/uL
   9.3 g/dL
   58 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   65 mg/dL
   103 mEq/L
   142 mEq/L
   28.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2115-5-17**]  05:13 PM
                             [**2115-5-18**]  04:46 AM
                             [**2115-5-19**]  05:03 AM
   WBC
   12.3
   12.6
   Hct
   28.1
   28.4
   Plt
   269
   306
   Cr
   2.4
   2.1
   1.8
   Glucose
   208
   112
   58
   Other labs: Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   75 yo female admitted with SOB, URI symptoms and dietary indiscretion
   over the [**Holiday **] holiday now with acute worsening of hypoxia [**3-4**] acute
   CHF.
   # Acute on Chronic CHF: Ms. [**Name13 (STitle) 8727**] has had worsening SOB, DOE and
   orthopnea over the past 5 days and was found to be acutely hypoxic
   yesterday morning likely [**3-4**] to acute CHF exacerbation.  She was given
   Lasix IV multiple times over the course of yesterday and diuresed
   approximately 3L. Her exam is much improved as is her breathing
   suggesting a relatively euvolemic state. She is currently on a NP O2
   with good oxygen saturation.
   -- Restart home lasix PO (120 QAM, 120 at noon, 40 QHS)
   -- goal
   -- [**Hospital1 **] Lytes
   -- cont home ASA, Labetalol, Clonidine, Nifedipine
   -- Goal SBP 140s
   -- wean O2 as tolerated
   # URI: Ms. [**Known lastname 8728**] describes mild cough with clear productive sputum
   along with some chills.  She had a ?Retrocardiac opacity on admission
   and was started on Ceftriaxone/Azithromycin.  She remained afebrile
   here. CXR less likely to represent pneumonia.
   -- Will hold abx and monitor
   -- f/u blood cultures
   -- monitor fever curve
   # Hypertension: episode of bp in the 160s overrnight. Likely [**3-4**]  not
   taking home meds.  restarted home niofedipine, titrate if needed this
   PM
   # Renal artery stenosis status post stenting x2: cont asa and plavix.
   Creatinine improving. RA US equivocal, no need to further investigate
   if BP is controlled and UOP is maintained. Will monitor.
   # Diabetes: diabetic diet and home insulin regimen
   # CKD: stable, renally dose meds, avoid nephrotoxins
     FEN: replete lytes prn
   PPX: Sc heparin, bowel regimen prn
   ACCESS: PIV's .
   CODE STATUS: Full Code   .
   DISPOSITION: pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-17**] 08:51 AM
   20 Gauge - [**2115-5-17**] 12:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: